US04535089
2.0 g of ethyl 3-(4-chlorobenzoylamino)-3-caproylpropionate, 10 ml of dimethylformamide and 1.0 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 1.6 g of ethyl 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetate are thereby obtained. Yield: 84.2%.

reactant | ethyl 3-(4-chlorobenzoylamino)-3-caproylpropionate | 2.0 g | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(CCCCC)=O)C=C1 | C18H24ClNO4
reactant | phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetate | 1.6 g, Yield: 84.2% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)CCCCC | C18H22ClNO3
